2172-02-11 08:02:00 Physician Resident Progress Note
Chief Complaint: abd pain, cirrhosis, pneumobilia
   24 Hour Events:
 MULTI LUMEN - START [**2172-2-10**] 05:17 PM
   -Overnight, pt given 1mg IV Ativan x1 for sleep. Slept well.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-2-10**] 11:00 PM
   Metronidazole - [**2172-2-11**] 06:28 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: states abd pain slightly better. No nausea,
   diarrhea, COB, CP.  No more BM since last night
   Flowsheet Data as of  [**2172-2-11**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 79 (79 - 85) bpm
   BP: 121/63(75) {83/37(49) - 153/89(100)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,446 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                  1,446 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    605 mL
   Urine:
                                                                    850 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    596 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: in middle
   lower abd
   Extremities: Right: Trace, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   54 K/uL
   8.7 g/dL
   80 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   17 mg/dL
   110 mEq/L
   142 mEq/L
   24.4 %
   2.8 K/uL
        [image002.jpg]
                             [**2172-2-10**]  04:57 PM
                             [**2172-2-10**]  10:20 PM
                             [**2172-2-11**]  05:25 AM
   WBC
   3.9
   2.8
   Hct
   27.8
   25.6
   24.4
   Plt
   59
   54
   Cr
   0.8
   0.7
   Glucose
   75
   80
   Other labs: PT / PTT / INR:17.7/40.7/1.6, ALT / AST:36/75, Alk Phos / T
   Bili:97/2.5, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:7.3 mg/dL, Mg++:1.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PEPTIC ULCER DISEASE (PUD)
 ALCOHOL ABUSE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 COCAINE ABUSE
   Assessment: This is a 55 year-old male with a history of ETOH/ Hep C
   cirrhosis, ? CAD, sz d/o, polysubstance abuse who presents from OSH
   with GIB, duodenal ulcers on EGD and ? perforation
   .
   Plan:
   # Duodenal ulcers/ GIB: CT and KUB at OSH without free air on read.
   But, when reviewed CD here, has pneumobilia with very distended gall
   bladder. EGD at OSH with 2 duodenal ulcers. One deep. Possibly [**1-27**]
   NSAID use. Suspect this has led to fistula btwn duodenal ulcer and GB.
   Child-[**Doctor Last Name 4682**] class B/C thus likely 40% mortality with surgery.
   - CT abd today per surgery recs.
   -Hepatology consulted. Cont pantoprazole and octreotide gtts. Will
   scope in a couple days- f/u recs today
   -f/u surgery recs
   -Keep NPO with all meds IV.
   - cont Cipro/ flagyl today.
   -pain PRN with IV dilaudid .5 Q  6
   -follow Q 6 hrs  Hct
   - send for H pylori testing today
   -will try to get CT from OSH uploaded in out system today
   .
   # [**Name (NI) 4683**] Pt with Hep C/ ETOH cirrhosis. On lasix, aldactone,
   lactulose at home with h/o hepatic encephalopathy, gastric varices.
   -Cont lactulose enema daily here
   - Cont lasix for now. If BP remains stable, consider restarting
   aldactone
   .
   # h/o polysubstance abuse- last EtOH use approx 1 yr ago. Heroin use IV
   earlier this month. no signs/symptoms of withdrawl at this time
   although pt asking for Ativan and pain meds.
   -if necessary for agitation overnight, consider IV Ativan 1mg x1.
   - monitor for other signs of withdrawl
   -MVI, Thiamine, folic acid- banana bag given overnight. Switch to PO
   when taking POs
   .
   # Chronic pain- pt with chronic knee pain. On NSAIDS as outpt likely
   leading to ulcers.
   -Dilaudid .5 IV Q6 PRN
   .
   # seizure d/o- pt with h/o seizure d/o but not sz during withdrawl.  On
   neurontin 100 [**Hospital1 **] as outpt
   -curbsided neuro today rec 500 Keppra IV BID.
   .
   # h/o depression, anxiety- For now, will hold of on Ativan til
   displaying signs/symptoms of anxiety
   -restart mirtazepine once taking PO
   .
   # h/o ?[**Name (NI) 2485**] unclear history. EKG nl today. Not on ASA, statin or BB as
   outpt. Hold on these for now with unclear hx and ASA contraindicated.
   Will attempt to get further hx from OSH records.
   .
   # Pancytopenia- low platelets perhaps [**1-27**] ETOH abuse and cirrhosis, low
   Hct may be [**1-27**] GIB but still ? etiology of leukopenia. In this IV drug
   user, concern for HIV
   -Get consent and HIV test today
   .
   # FEN: NPO for now.
   # PPx: PPI ggt, pneumoboots.
   # Code: Full
   # Dispo:  ICU for now
   # Comm:  Pt has next of [**Doctor First Name 23**] Mother [**Name (NI) 4684**] [**Name (NI) 3185**] in [**Name (NI) 958**] phone [**Telephone/Fax (1) 4685**] but has refused communication with her
   Transfer from OSH- Dr. [**Last Name (STitle) 4686**] [**Telephone/Fax (1) 4687**] ([**Hospital **] Hospital page
   operator)
   ICU Care
   Nutrition: NPO for now per surgery
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2172-2-10**] 05:17 PM- will attempt to place PICC today so
   that can d/c CVL placed at OSH.
   22 Gauge - [**2172-2-10**] 05:19 PM
   20 Gauge - [**2172-2-10**] 05:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2172-02-11 09:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2172-2-10**] 05:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-2-10**] 11:00 PM
   Metronidazole - [**2172-2-11**] 06:28 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2172-2-11**] 07:58 AM
   Dilantin - [**2172-2-11**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-11**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 80 (79 - 85) bpm
   BP: 107/48(62) {83/37(49) - 153/89(100)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,446 mL
                                                                    937 mL
   PO:
             TF:
   IVF:
                                                                  1,446 mL
                                                                    937 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  2,025 mL
   Urine:
                                                                    850 mL
                                                                  2,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    596 mL
                                                                 -1,087 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   54 K/uL
   80 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   17 mg/dL
   110 mEq/L
   142 mEq/L
   24.4 %
   2.8 K/uL
        [image002.jpg]
                             [**2172-2-10**]  04:57 PM
                             [**2172-2-10**]  10:20 PM
                             [**2172-2-11**]  05:25 AM
   WBC
   3.9
   2.8
   Hct
   27.8
   25.6
   24.4
   Plt
   59
   54
   Cr
   0.8
   0.7
   Glucose
   75
   80
   Other labs: PT / PTT / INR:19.7/43.1/1.8, ALT / AST:36/75, Alk Phos / T
   Bili:97/2.5, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:7.3 mg/dL, Mg++:1.4
   mg/dL, PO4:3.3 mg/dL
   Imaging: No new imaging data.
   Microbiology: No pending data.
   Assessment and Plan
   This is a 55 year-old male with a history of ETOH/ Hep C cirrhosis,
   polysubstance abuse who presents from OSH with GIB, duodenal ulcers on
   EGD and ? perforation
   # Duodenal ulcers/ GIB: Likely [**1-27**] fistula between duodenal ulcer and
   GB given pneumobilia and GB distension. EGD at OSH with 2 duodenal
   ulcers. One deep. Possibly [**1-27**] NSAID use.
   - Surgery following
   - consider repeat CT scan
   - Serial Hcts
   - F/u hepatology c/s
   - NPO
   #Pancytopenia
 Could be c/w Hep C cirrhosis, but HIV or other bone
   marrow suppressive conditions should be considered.
   # [**Name (NI) 4683**] Pt with Hep C/ ETOH cirrhosis. On lasix, aldactone,
   lactulose at home with h/o hepatic encephalopathy, gastric varices.
   -Cont lactulose here
   - Cont lasix for now. If BP remains stable, consider restarting
   aldactone tomorrow.
   .
   # h/o polysubstance abuse- last EtOH use approx 1 yr ago. Heroin use IV
   earlier this month. no signs/symptoms of withdrawl at this time
   although pt asking for Ativan and pain meds.
   -hold off on ativan for now as pt falling asleep and doesn't
   significantly appear anxious. If needed will give ativan overnight
   - monitor for other signs of withdrawl
   -MVI, Thiamine, folic acid.
   .
   # Chronic pain- pt with chronic knee pain. On NSAIDS as outpt likely
   leading to ulcers.
   -Dilaudid .5 IV Q6 PRN
   .
   # seizure d/o- pt with h/o seizure d/o but not sz during withdrawl.
   -Cont neurontin.
   .
   # h/o depression, anxiety- For now, will hold of on Ativan til
   displaying signs/symptoms of anxiety
   -cont mirtazepine from OSH.
   .
   # h/o ?[**Name (NI) 2485**] unclear history. EKG nl today. Not on ASA, statin or BB as
   outpt. Hold on these for now with unclear hx and ASA contraindicated.
   Will attempt to get further hx from OSH records.
   .
   # FEN: NPO for now.
   # Access: Place PIV's  x2 and likely pull CVL from OSH tomorrow
   # PPx: PPI ggt, pneumoboots.
   # Code: Full
   # Dispo:  ICU for now
   # Comm:  Pt has next of [**Doctor First Name 23**] Mother [**Name (NI) 4684**] [**Name (NI) 3185**] in [**Name (NI) 958**] phone [**Telephone/Fax (1) 4685**] but has refused communication with her
   Transfer from OSH- Dr. [**Last Name (STitle) 4686**] [**Telephone/Fax (1) 4687**] ([**Hospital **] Hospital page
   operator)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-2-10**] 05:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2172-02-12 08:02:00 Physician Resident Progress Note
Chief Complaint: pneumobilia with fistula btwn CBD and duodenal ulcer
   24 Hour Events:
 PICC LINE - START [**2172-2-11**] 05:00 PM
 MULTI LUMEN - STOP [**2172-2-11**] 06:30 PM
   -abdominal CT repeated per surgery request. Showed pneumobilia, with
   air and oral contrast in gallbladder and CBD, "most consistent with
   fistulous connection between known ulcer in 2nd portion of duodenum,
   and gallbladder"
   -surgery was initially unsure about whether to take him to OR b/c of
   his high mortality (Child-[**Doctor Last Name 4682**] class B/C) but ultimately put him on the
   schedule for ~2pm on [**2-12**]
   -PICC placed, right subclav pulled
   -vitamin K 10 mg iv x 1 per surgery request in a.m. of [**2-12**]
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-2-11**] 10:00 PM
   Metronidazole - [**2172-2-12**] 06:52 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2172-2-11**] 07:58 AM
   Dilantin - [**2172-2-11**] 09:15 AM
   Hydromorphone (Dilaudid) - [**2172-2-11**] 08:18 PM
   Lorazepam (Ativan) - [**2172-2-12**] 12:49 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: no nausea, CP, SOB. States mid lower abd pain and
   occasional short bursts on RUQ pain
   Flowsheet Data as of  [**2172-2-12**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 75 (69 - 81) bpm
   BP: 81/41(50) {81/41(50) - 124/75(86)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,110 mL
                                                                    392 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,750 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,975 mL
                                                                    730 mL
   Urine:
                                                                  3,475 mL
                                                                    730 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -865 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: over lower
   midline abd
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   56 K/uL
   9.2 g/dL
   74 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   26.9 %
   2.7 K/uL
        [image002.jpg]
                             [**2172-2-10**]  04:57 PM
                             [**2172-2-10**]  10:20 PM
                             [**2172-2-11**]  05:25 AM
                             [**2172-2-11**]  11:37 AM
                             [**2172-2-11**]  05:47 PM
                             [**2172-2-11**]  10:15 PM
                             [**2172-2-12**]  04:35 AM
   WBC
   3.9
   2.8
   2.7
   Hct
   27.8
   25.6
   24.4
   27.7
   26.8
   26.3
   26.9
   Plt
   59
   54
   56
   Cr
   0.8
   0.7
   0.8
   Glucose
   75
   80
   74
   Other labs: PT / PTT / INR:20.3/43.7/1.9, ALT / AST:40/78, Alk Phos / T
   Bili:103/1.9, Albumin:2.3 g/dL, LDH:198 IU/L, Ca++:7.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PEPTIC ULCER DISEASE (PUD)
 ALCOHOL ABUSE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 COCAINE ABUSE
   Assessment: This is a 55 year-old male with a history of ETOH/ Hep C
   cirrhosis, ? CAD, sz d/o, polysubstance abuse who presents from OSH
   with GIB, duodenal ulcers on EGD and ? perforation
   .
   Plan:
   # Duodenal ulcers/ GIB: CT and KUB at OSH without free air on read.
   But, when reviewed CD here, has pneumobilia with very distended gall
   bladder. EGD at OSH with 2 duodenal ulcers. One deep. Possibly [**1-27**]
   NSAID use. Suspect this has led to fistula btwn duodenal ulcer and GB.
   Child-[**Doctor Last Name 4682**] class B/C thus likely 40% mortality with surgery.
   - CT abd today per surgery recs.
   -Hepatology consulted. Cont pantoprazole and octreotide gtts. Will
   scope in a couple days- f/u recs today
   -f/u surgery recs
   -Keep NPO with all meds IV.
   - cont Cipro/ flagyl today.
   -pain PRN with IV dilaudid .5 Q  6
   -follow Q 6 hrs  Hct
   - send for H pylori testing today
   -will try to get CT from OSH uploaded in out system today
   .
   # [**Name (NI) 4683**] Pt with Hep C/ ETOH cirrhosis. On lasix, aldactone,
   lactulose at home with h/o hepatic encephalopathy, gastric varices.
   -Cont lactulose enema daily here
   - Cont lasix for now. If BP remains stable, consider restarting
   aldactone
   .
   # h/o polysubstance abuse- last EtOH use approx 1 yr ago. Heroin use IV
   earlier this month. no signs/symptoms of withdrawl at this time
   although pt asking for Ativan and pain meds.
   -if necessary for agitation overnight, consider IV Ativan 1mg x1.
   - monitor for other signs of withdrawl
   -MVI, Thiamine, folic acid- banana bag given overnight. Switch to PO
   when taking POs
   .
   # Chronic pain- pt with chronic knee pain. On NSAIDS as outpt likely
   leading to ulcers.
   -Dilaudid .5 IV Q6 PRN
   .
   # seizure d/o- pt with h/o seizure d/o but not sz during withdrawl.  On
   neurontin 100 [**Hospital1 **] as outpt
   -curbsided neuro today rec 500 Keppra IV BID.
   .
   # h/o depression, anxiety- For now, will hold of on Ativan til
   displaying signs/symptoms of anxiety
   -restart mirtazepine once taking PO
   .
   # h/o ?[**Name (NI) 2485**] unclear history. EKG nl today. Not on ASA, statin or BB as
   outpt. Hold on these for now with unclear hx and ASA contraindicated.
   Will attempt to get further hx from OSH records.
   .
   # Pancytopenia- low platelets perhaps [**1-27**] ETOH abuse and cirrhosis, low
   Hct may be [**1-27**] GIB but still ? etiology of leukopenia. In this IV drug
   user, concern for HIV
   -Get consent and HIV test today
   .
   # FEN: NPO for now.
   # PPx: PPI ggt, pneumoboots.
   # Code: Full
   # Dispo:  ICU for now
   # Comm:  Pt has next of [**Doctor First Name 23**] Mother [**Name (NI) 4684**] [**Name (NI) 3185**] in [**Name (NI) 958**] phone [**Telephone/Fax (1) 4685**] but has refused communication with her
   Transfer from OSH- Dr. [**Last Name (STitle) 4686**] [**Telephone/Fax (1) 4687**] ([**Hospital **] Hospital page
   operator)
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2172-2-11**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2172-02-12 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2172-2-11**] 05:00 PM
 MULTI LUMEN - STOP [**2172-2-11**] 06:30 PM
   CT scan with pneumobilia
   Surgery consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-2-11**] 10:00 PM
   Metronidazole - [**2172-2-12**] 06:52 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-2-12**] 08:10 AM
   Hydromorphone (Dilaudid) - [**2172-2-12**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-2-12**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.2
   HR: 75 (69 - 78) bpm
   BP: 113/74(82) {81/41(50) - 124/75(86)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,110 mL
                                                                    611 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,750 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  3,975 mL
                                                                  1,370 mL
   Urine:
                                                                  3,475 mL
                                                                  1,370 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -865 mL
                                                                   -759 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, No asterixis
   Labs / Radiology
   9.2 g/dL
   56 K/uL
   74 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.2 mEq/L
   12 mg/dL
   108 mEq/L
   140 mEq/L
   26.9 %
   2.7 K/uL
        [image002.jpg]
                             [**2172-2-10**]  04:57 PM
                             [**2172-2-10**]  10:20 PM
                             [**2172-2-11**]  05:25 AM
                             [**2172-2-11**]  11:37 AM
                             [**2172-2-11**]  05:47 PM
                             [**2172-2-11**]  10:15 PM
                             [**2172-2-12**]  04:35 AM
   WBC
   3.9
   2.8
   2.7
   Hct
   27.8
   25.6
   24.4
   27.7
   26.8
   26.3
   26.9
   Plt
   59
   54
   56
   Cr
   0.8
   0.7
   0.8
   Glucose
   75
   80
   74
   Other labs: PT / PTT / INR:20.3/43.7/1.9, ALT / AST:40/78, Alk Phos / T
   Bili:103/1.9, Albumin:2.3 g/dL, LDH:198 IU/L, Ca++:7.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 55 year-old male with a history of ETOH/ Hep C cirrhosis,
   polysubstance abuse who presents from OSH with GIB, duodenal ulcers on
   EGD and ? perforation
   # Duodenal ulcers/ GIB: Concerns for fistula between duodenal ulcer and
   GB given pneumobilia and GB distension. EGD at OSH with 2 duodenal
   ulcers. One deep. Possibly [**1-27**] NSAID use.  Plan to go for surgery today
   to correct fistula (ex-lap with chole).
   - Surgery following
 transfer to SICU for surgery today
   - Serial Hcts
   - PPI [**Hospital1 **]
   - Hepatology following
   - NPO
   - F/U H. Pylori
   #Pancytopenia
 Could be c/w Hep C cirrhosis, but HIV or other bone
   marrow suppressive conditions should be considered.
   - Determine chronicity
   - Check HIV
   - Follow
   - Consider hematology consult
   #Cirrhosis - Pt with Hep C/ ETOH cirrhosis with h/o hepatic
   encelopathy/varices.
   - Continue lactulose / lasix.  Add back aldactone as tolerated.
   - MVI/thiamine/folate
   - Pt inquiring as to new interferon treatments, defered to hepatology.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-2-11**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to SICU on [**Hospital Ward Name **]
   Total time spent: 35 minutes
   Patient is critically ill